US06180622B2
2-Fluoroethyl trifluoromethanesulfonate (198.9 mg) is added to a solution of 53.1 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2(Z)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, described in Example 38-a), in 0.8 ml of dry dichloroethane, and the mixture is stirred in an argon atmosphere at room temperature for 24 hr. The solvent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) and ion-exchanged using Amberlyst A-26 (Cl− form) (water) to give 63.7 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2(Z)-(6-(2-fluoroethyl)imidazo[5,1-b]thiazolium-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate chloride as a yellow oil.

reactant | 2-Fluoroethyl trifluoromethanesulfonate | 198.9 mg | FC(S(=O)(=O)OCCF)(F)F | C3H4F4O3S
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2(Z)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 53.1 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1\C=C/C=1N2C(SC1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H32N4O6S2
reactant | dichloroethane | 0.8 ml | ClC(C)Cl | C2H4Cl2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2(Z)-(6-(2-fluoroethyl)imidazo[5,1-b]thiazolium-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate chloride | 63.7 mg | [Cl-].C(C=C)OC(=O)N1C[C@H](C[C@H]1\C=C/C=1[N+]=2C(SC1)=CN(C2)CCF)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C30H36FN4O6S2.ClH/c1-5-11-40-29(38)26-27(18(3)25-24(19(4)36)28(37)35(25)26)43-22-13-20(33(14-22)30(39)41-12-6-2)7-8-21-16-42-23-15-32(10-9-31)17-34(21)23;/h5-8,15-20,22,24-25,36H,1-2,9-14H2,3-4H3;1H/q+1;/p-1/b8-7-;/t18-,19-,20-,22+,24-,25-;/m1./s1
